US05679791
Preparation of N-(4-Chloro-2-fluoro-5-nitrophenyl)-1-cyclohexene-1,2-dicarboximide
A mixture of N-(4-chloro-2-fluorophenyl)-1-cyclohexene-1,2-dicarboximide (24.4 g, 86.7 mmol) in sulfuric acid (150 mL) is cooled to -3° C., treated dropwise with nitric acid (70% real, 6.70 mL, 104 mmol) while maintaining the temperature at 0°-2° C., stirred at room temperature for 90 minutes, and poured onto ice. The aqueous mixture is stirred for several minutes, and filtered to obtain a solid which is washed with water and dried to give the title product as a white powder (28.6 g, mp 152°-155° C.).

reactant | N-(4-chloro-2-fluorophenyl)-1-cyclohexene-1,2-dicarboximide | 86.7 mmol, 24.4 g | ClC1=CC(=C(C=C1)N1C(=O)C2=C(CCCC2)C1=O)F | C14H11ClFNO2
reactant | nitric acid | 104 mmol, 6.70 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 150 mL | S(O)(O)(=O)=O | H2O4S
product | N-(4-Chloro-2-fluoro-5-nitrophenyl)-1-cyclohexene-1,2-dicarboximide | 28.6 g | ClC1=CC(=C(C=C1[N+](=O)[O-])N1C(=O)C2=C(CCCC2)C1=O)F | C14H10ClFN2O4
